US07868036B2
N-{3-Amino-2-hydroxy-5-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-6-methylheptyl}propane-2-sulphonamide hydrochloride
0.007 ml of propane-2-sulphonyl chloride is added to a solution of 0.026 g of tert-butyl {1-(2-amino -1-hydroxyethyl)-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate (Example 3Kb), and 0.007 ml of triethylamine in 1 ml of dichloromethane is added at 0° C. After 6 hours, the reaction mixture is concentrated by evaporation—the N-Boc intermediate is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F). The N-Boc intermediate is dissolved in 0.82 ml of 4N HCl/dioxane—after 4 hours, the reaction mixture is concentrated by evaporation, and the residue is dissolved in 0.5 ml of tert-butanol, frozen in liquid nitrogen and lyophilized under high vacuum overnight. The title compound is identified on the basis of the Rf value from the residue.

reactant | propane-2-sulphonyl chloride | 0.007 ml | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | tert-butyl {1-(2-amino -1-hydroxyethyl)-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate | 0.026 g | NCC(O)C(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)NC(OC(C)(C)C)=O | C27H45N3O4
reactant | triethylamine | 0.007 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-{3-Amino-2-hydroxy-5-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-6-methylheptyl}propane-2-sulphonamide hydrochloride | Cl.NC(C(CNS(=O)(=O)C(C)C)O)CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC | InChI=1S/C25H43N3O4S.ClH/c1-17(2)21(14-23(26)25(29)15-27-33(30,31)18(3)4)12-19-9-10-24-22(13-19)20(16-28(24)5)8-7-11-32-6;/h9-10,13,16-18,21,23,25,27,29H,7-8,11-12,14-15,26H2,1-6H3;1H
